US07612059B2
2 (S)-hydroxy-3 (R)-[2 (R/S)-phenyl-pyrrolidine-1-carbonyl)-heptanoic acid hydroxamide
The title compound is prepared from 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid A-5 and commercially available 2-phenyl-pyrrolidine B-5 according to General Procedure B.

reactant | 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid | CC1(OC(C(O1)=O)C(C(=O)O)CCCC)C | C11H18O5
reactant | 2-phenyl-pyrrolidine | C1(=CC=CC=C1)C1NCCC1 | C10H13N
product | (S)-hydroxy-3 (R)-[2 (R/S)-phenyl-pyrrolidine-1-carbonyl)-heptanoic acid | O[C@H](C(=O)O)[C@@H](CCCC)C(=O)N1C(CCC1)C1=CC=CC=C1 | C18H25NO4
